US08053447B2
To a stirred solution of N-Boc-4-piperidinemethanol (10 g, 46.45 mmol) in dry THF (500 mL) was added tributyl phosphine (18.77 g, 92.9 mmol) and 4-hydroxy benzoic acid methyl ester (10.6 g, 69.67 mmol). The reaction mixture was cooled to 0° C. and ADDP (23.41 g, 92.9 mmol) was added dropwise from an addition funnel over a period of 1 hr. The reaction was gradually brought to room temperature and stirring continued for 1 hr. The sol-vent was removed under vacuum and EtOAc (50 mL) was added and cooled to 0° C. The solid formed was filtered and the clear filtrate concentrated and purified by column chromatography (ISCO) using a step gradient starting with heptane going to EtOAc 100%. Desired fractions were collected and the solvent evaporated in vacuo affording 5.9 g (36%) of 4-(4-methoxycarbonyl-phenoxymethyl)-piperidine-1-carboxylic acid t-butyl ester as an oil.

reactant | N-Boc-4-piperidinemethanol | 46.45 mmol, 10 g | C(=O)(OC(C)(C)C)N1CCC(CC1)CO | C11H21NO3
reactant | tributyl phosphine | 92.9 mmol, 18.77 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 4-hydroxy benzoic acid methyl ester | 69.67 mmol, 10.6 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | ADDP | 92.9 mmol, 23.41 g | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 4-(4-methoxycarbonyl-phenoxymethyl)-piperidine-1-carboxylic acid t-butyl ester | 5.9 g, 36% | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=CC=C(C=C1)C(=O)OC | C19H27NO5
